US06759428B2
To a solution of 1-methyl-1H-indole-2-carboxylic acid {(1S,2R)-2-[(cyano-piperidin-4-ylmethyl-methyl)-carbamoyl]-cyclohexyl}-amide hydrochloride (0.50 g, 1.06 mmol) in 2 mL of DMF, was added 0.5 mL of TEA, acetic anhydride (0.15 mL, 1.59 mmol), and a few crystals of DMAP. The reaction mixture was stirred at ambient temperature for 1 hour, and partitioned between 50 mL of water and 50 mL of ethyl acetate. The separated organic layer was washed with water (2×50 mL), dried with sodium sulfate, filtered, concentrated, and purified by column chromatography (5:95, MeOH/CH2Cl2) to give 165 mg (33%) of 1-methyl-1H-indole-2-carboxylic acid ((1S,2R)-2-{[(1-acetyl-piperidin-4-ylmethyl)-cyano-methyl]-carbamoyl}-cyclohexyl)-amide as a white amorphous solid. MS: 478 (M+H+).

reactant | 1-methyl-1H-indole-2-carboxylic acid {(1S,2R)-2-[(cyano-piperidin-4-ylmethyl-methyl)-carbamoyl]-cyclohexyl}-amide hydrochloride | 1.06 mmol, 0.50 g | Cl.C(#N)C(CC1CCNCC1)NC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1N(C2=CC=CC=C2C1)C
reactant | acetic anhydride | 1.59 mmol, 0.15 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-methyl-1H-indole-2-carboxylic acid ((1S,2R)-2-{[(1-acetyl-piperidin-4-ylmethyl)-cyano-methyl]-carbamoyl}-cyclohexyl)-amide | 165 mg, 33% | C(C)(=O)N1CCC(CC1)CC(C#N)NC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1N(C2=CC=CC=C2C1)C | C27H35N5O3
